US04115416
Analogously to the process described in Example 2, 13 g of α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid ethyl ester and 29 ml of 2 N sodium hydroxide solution in 130 ml of ethanol give α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid of melting point 69°-71° C (from cold hexane).

reactant | α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid ethyl ester | 13 g | C(C)OC(C(CCCCC)OC1=CC=C(C=C1)C1=CCCCCC1)=O | C22H32O3
reactant | sodium hydroxide | 2 N, 29 ml | [OH-].[Na+]
reactant | hexane | CCCCCC | C6H14
solvent | ethanol | 130 ml | C(C)O | C2H6O
product | α-[p-(1-cycloheptenyl)-phenoxy]-heptanoic acid | C1(=CCCCCC1)C1=CC=C(OC(C(=O)O)CCCCC)C=C1 | C20H28O3
